US08835470B2
(R/S)-Ethyl 2-hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetate (Int-VI, 1.95 g, 4.25 mmol) was dissolved in THF (11 mL) and MeOH (5.50 mL) was added. Then, 1N LiOH (4.25 mL, 4.25 mmol) was added. It was stirred for 10 min and additional 1N LiOH (0.85 mL, 0.85 mmol) was added. After 10 min, more 1N LiOH (0.42 mL, 0.42 mmol) was added. After stirring for 10 min, the solution was concentrated and then EtOAc was added. The EtOAc was washed with 1 N HCl aqueous. The organic layer was dried (MgSO4), filtered and concentrated to give (R/S)-2-hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-VII, 1.8 g, 4.1 mmol, 97%): LCMS=431.1 [M+H]+.

reactant | (R/S)-Ethyl 2-hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetate | 4.25 mmol, 1.95 g | OC(C(=O)OCC)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C22H17F3N4O4
reactant | MeOH | 5.50 mL | CO | CH4O
reactant | LiOH | 4.25 mmol, 1N, 4.25 mL | [Li+].[OH-]
reactant | LiOH | 0.85 mmol, 1N, 0.85 mL | [Li+].[OH-]
reactant | LiOH | 0.42 mmol, 1N, 0.42 mL | [Li+].[OH-]
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | (R/S)-2-hydroxy-2-(4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 4.1 mmol, 1.8 g, 97% | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C1=CC=CC=C1 | C20H13F3N4O4
